US06960575B2
{(3RS)-4-Formyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid (Reference compound No. 60-1)
Potassium carbonate (983 mg) and water (6 ml) are added to a solution of ethyl {(3RS)-4-formyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetate (1.96 g, Reference compound No. 50-1) in ethanol (14 ml), and the mixture is stirred overnight. Ethyl acetate is added to reaction mixture, and the whole is extracted with water. A 10% aqueous citric acid solution is added to the extract to acidify the system, and the whole is extracted with ethyl acetate again. The extract is washed with water and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (0.90 g).

reactant | Potassium carbonate | 983 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 6 ml | O | H2O
reactant | ethyl {(3RS)-4-formyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetate | C(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)OCC)=O)C(C)C | C18H22N2O4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | {(3RS)-4-Formyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid | 0.90 g | C(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)O)=O)C(C)C | C16H18N2O4
